US05866594
Synthesis of methyl l-acetoxy-4,7-dimethylindole-2-carboxylate (compound 78)
A solution of 0.3 g (1.37 mmol) of methyl 2-hydroxy-4,7-dimethylindole-2-carboxylate and 0.13 ml of pyridine in 20 ml of anhydrous THF was cooled, to 0° C. and 0.12 ml of acetyl chloride was gradually added dropwise. The reaction mixture was stirred for 1 hour and then added dropwise to ice water. The crystals were separated by filtration and dried under reduced pressure to provide 0.30 g of green crystals. Yield: 92%

reactant | methyl 2-hydroxy-4,7-dimethylindole-2-carboxylate | 1.37 mmol, 0.3 g | OC1(N=C2C(=CC=C(C2=C1)C)C)C(=O)OC | C12H13NO3
reactant | pyridine | 0.13 ml | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 0.12 ml | C(C)(=O)Cl | C2H3ClO
reactant | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl l-acetoxy-4,7-dimethylindole-2-carboxylate | 0.30 g, Yield: 92% | C(C)(=O)ON1C(=CC2=C(C=CC(=C12)C)C)C(=O)OC | C14H15NO4
